US05679791
Preparation of 1-(2,4-Difluorophenyl-3-methylurea
Methyl isocyanate (9.6 g, 10 mL, 0.174 mol) is added to a solution of 2,4-difluoroaniline (15 g, 0.116 mol) in toluene. The reaction mixture is stirred for 1 hour and filtered to obtain a solid. The solid is washed with hexanes and air-dried to give the title product as an off-white solid, mp 182°-183° C.

reactant | Methyl isocyanate | 0.174 mol, 10 mL, 9.6 g | CN=C=O | C2H3NO
reactant | 2,4-difluoroaniline | 0.116 mol, 15 g | FC1=C(N)C=CC(=C1)F | C6H5F2N
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2,4-Difluorophenyl-3-methylurea | FC1=C(C=CC(=C1)F)NC(=O)NC | C8H8F2N2O
